US06908913B2
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (78.1 mg) was suspended in 1.5 ml of acetonitrile to prepare a suspension. Benzyl bromide (0.032 ml) was added to the suspension, and the mixture was stirred at room temperature for 10 hr. The reaction solution was concentrated under the reduced pressure to give 4-nitrobenzyl (1S,5R,6S)-2-[7-(1-benzylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate bromide.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 78.1 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H23N5O7S
reactant | Benzyl bromide | 0.032 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl (1S,5R,6S)-2-[7-(1-benzylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate bromide | [Br-].C(C1=CC=CC=C1)[N+]1=CC(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C35H30N5O7S.BrH/c1-20-27(31(39-30(20)28(21(2)41)33(39)43)35(44)47-18-23-10-12-25(13-11-23)40(45)46)26-17-38-19-36-29(34(38)48-26)32(42)24-9-6-14-37(16-24)15-22-7-4-3-5-8-22;/h3-14,16-17,19-21,28,30,41H,15,18H2,1-2H3;1H/q+1;/p-1/t20-,21+,28+,30+;/m0./s1
